US06538007B1
To a solution of N-(t-butoxycarbonyl)-2(S)-benzyloxycarbonylamino-β-alanine (6.15 g) in methanol (120 ml) was added 10% Pd—C (50% wet, 1.2 g). The mixture was stirred vigorously, and hydrogen gas was bubbled for 1 hour. The catalyst was removed by filtration, and the filtrate was evaporated in vacuo. The residue was dissolved in tetrahydrofuran (70 ml) and cooled to 0° C. with ice bath. 1N NaOH (36 ml) was added, then acetic anhydride (3.77 ml) was added dropwise under stirring. The mixture was stirred for additional 1 hour at 0° C., then the pH of the mixture was adjusted to 2.5 with aqueous 20% KHSO4. The resultant mixture was extracted with ethyl acetate-tetrahydrofuran (200 ml-100 ml) twice times. The combined organic layer was dried over Na2SO4 and evaporated in vacuo. The residue was recrystallized from diethyl ether to give N-(t-butoxycarbonyl)-2(S)-acetylamino-β-alanine (3.17 g).

reactant | N-(t-butoxycarbonyl)-2(S)-benzyloxycarbonylamino-β-alanine | 6.15 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C16H22N2O6
reactant | methanol | 120 ml | CO | CH4O
catalyst | Pd—C | 1.2 g | [Pd] | Pd
product | N-(t-butoxycarbonyl)-2(S)-acetylamino-β-alanine | 3.17 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)O)NC(C)=O | C10H18N2O5
